US06881736B1
(b) (S)3-(Pyridin-3-yl)-4-[4-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)ethoxy]phenyl]butanoic acid
1.0 M LiOH (2.6 mL, 2.6 mmole) was added to a solution of ethyl (S)-3-(pyridin-3-yl)-4-[4-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)ethoxy]phenyl]butanoate (572 mg, 1.28 mmole) in THF/H2O (8 mL), and the mixture was heated at 50° C. After 18 hr, the reaction was cooled to RT and acidified to pH 6.0 with 10% HCl. The precipitated solid was collected by suction filtration, washed with H2O, and dried in vacuo to afford the title compound (414 mg, 77%): 1H NMR (400 MHz, MeOH-d4) δ 8.28 (dd, J=4.9, 1.4 Hz, 1 H), 8.21 (d, J=1.8 Hz, 1 H). 7.68 (d, J=8.0 Hz, 1 H), 7.25-7.27 (m, 2 H), 6.91 (d, I=8.6 Hz, 2 H), 6.71 (d, J=8.6 Hz, 2 H), 6.53 (d, J=7.3 Hz, 1 H), 4.08-4.22 (m, 2 H), 3.30-3.45 (m, 3 H), 2.90-3.05 (m, 3 H), 2.70-2.85 (m, 3 H), 2.68 (dd, J=15.2, 6.7 Hz, 1 H), 2.58 (dd, J=15.2, 8.5 Hz, 1 H), 1.80-1.97 (m, 2 H); MS (ES) m/e 418 (M+H)+. Anal. Calcd for C23H25N3O3.0.25H2O: C, 71.15; H, 6.57; N, 9.96. Found: C, 71.11; H, 6.66; N, 9.82.

reactant | LiOH | 2.6 mmole, 1.0 M, 2.6 mL | [Li+].[OH-]
reactant | ethyl (S)-3-(pyridin-3-yl)-4-[4-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)ethoxy]phenyl]butanoate | 1.28 mmole, 572 mg | N1=CC(=CC=C1)[C@H](CC(=O)OCC)CC1=CC=C(C=C1)OCCC1=NC=2NCCCC2C=C1 | C27H31N3O3
reactant | HCl | Cl | ClH
solvent | THF H2O | 8 mL | C1CCOC1.O
product | (S)3-(Pyridin-3-yl)-4-[4-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)ethoxy]phenyl]butanoic acid | 414 mg, 77% | N1=CC(=CC=C1)[C@H](CC(=O)O)CC1=CC=C(C=C1)OCCC1=NC=2NCCCC2C=C1 | C25H27N3O3
